US04361715
Preparation of sodium N-methyl quinuclidinium (Q) NU-3
The synthesis mixture had the following molar composition 11.5 Na2O.17.1 QI.Al2O3.60 SiO2. 600 H2O. Solid silica (111 g of the product AKZO KS 300, of composition 7.18 Na2O.Al2O3. 695 SiO2 .226 H2O) were dispersed in 311.6 g of an aqueous solution containing 22 g sodium hydroxide and 5.6 g sodium aluminate (1.25 Na2O. Al2O3.3 H2O). The resulting slurry was heated to 95° C. with stirring and then 120 g of N-methylquinuclidinium iodide were added with stirring. The resulting gel was reacted with stirring in a 1-liter stainless steel autoclave for 3 days at 180° C. The slurry was filtered, washed twice with 1 liter of distilled water at 60° C., and then dried overnight at 120° C. The product was sodium N-methyl quinuclidinium NU-3 having the X-ray diffraction data shown in Table 2, and a molar composition 0.3 Na2O.1.5 Q2O.Al2O3.45 SiO2. 15 H2O. A sample of it was calcined in air (saturated with water at 25° C.) for 48 hours at 450° C. The resulting sodium hydrogen NU-3 had the X-ray data shown in Table 3. The calcined NU-3 was slurry exchanged with 5 ml N.HCl per g of zeolite for 1 hour at 25° C. and was then washed twice with 10 ml distilled water per g of zeolite. Finally the product was dried overnight at 120° C. and calcined at 450° C. in air for three hours. This hydrogen NU-3 had an X-ray diffraction pattern identical with that of sodium hydrogen NU-3 and had the following molar composition ignoring hydrogen 0.01 Na2O.Al2O3.46 SiO2.

reactant | sodium hydroxide | 22 g | [OH-].[Na+]
reactant | sodium aluminate | 5.6 g | O=[Al-]=O.[Na+]
reactant | N-methylquinuclidinium iodide | 120 g | [I-].C[N+]12CCC(CC1)CC2
solvent | H2O | O | H2O
product | sodium N-methyl quinuclidinium | C[N+]12CCC(CC1)CC2.[Na+] | InChI=1S/C8H16N.Na/c1-9-5-2-8(3-6-9)4-7-9;/h8H,2-7H2,1H3;/q2*+1
